US08492549B2
Acetic acid 5-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl ester
To a stirred solution of 1-[5-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl]ethanone (1.0 g, 3.36 mmol) in DCM (20 ml) was added m-chloroperbenzoic acid (1.24 g) and solid NaHCO3 (3.24 g). The mixture was stirred at RT for 3 d. The mixture was filtered and the filtrate washed once with 10% NaHSO4 solution and then twice with NaHCO3 solution. The organic layer was washed with water and brine and dried with Na2SO4. The solvent was removed under reduced pressure. The residue was triturated with ether to give the title compound (0.55 g) as a white solid, which was used without purification.

reactant | 1-[5-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl]ethanone | 3.36 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C)=O)OC[C@@H]1OC1 | C18H18O4
reactant | m-chloroperbenzoic acid | 1.24 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 3.24 g | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | Acetic acid 5-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl ester | 0.55 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)OC(C)=O)OC[C@@H]1OC1 | C18H18O5
